US08283353B2
2-(5-{[4-(4-{[tert-butyl(dimethyl)silyl]oxy}cyclohexyl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}pyridin-2-yl)benzonitrile
A mixture of ethyl 2-{[6-(2-cyanophenyl)pyridin-3-yl]methyl}-3-oxohexanoate (1.8 g), N-(4-{[tert-butyl(dimethyl)silyl]oxy}cyclohexyl)-4H-1,2,4-triazol-3-amine (1.4 g) and N,N-diethylaniline (30 mL) was stirred at 180° C. for 8 hr. The obtained reaction mixture was diluted with ethyl acetate, washed 3 times with 1 N hydrochloric acid and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give the title compound as a colorless solid (0.42 g, 21%).

reactant | ethyl 2-{[6-(2-cyanophenyl)pyridin-3-yl]methyl}-3-oxohexanoate | 1.8 g | C(#N)C1=C(C=CC=C1)C1=CC=C(C=N1)CC(C(=O)OCC)C(CCC)=O | C21H22N2O3
reactant | N-(4-{[tert-butyl(dimethyl)silyl]oxy}cyclohexyl)-4H-1,2,4-triazol-3-amine | 1.4 g | [Si](C)(C)(C(C)(C)C)OC1CCC(CC1)NC1=NN=CN1 | C14H28N4OSi
reactant | N,N-diethylaniline | 30 mL | C(C)N(C1=CC=CC=C1)CC | C10H15N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(5-{[4-(4-{[tert-butyl(dimethyl)silyl]oxy}cyclohexyl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}pyridin-2-yl)benzonitrile | 0.42 g, 21% | [Si](C)(C)(C(C)(C)C)OC1CCC(CC1)N1C=2N(C(=C(C1=O)CC=1C=CC(=NC1)C1=C(C#N)C=CC=C1)CCC)N=CN2 | C33H42N6O2Si
